US05187185
The 1-(2,6-dichloro-4-trifluoromethylphenyl)-2-(2-chloro-2-cyanoethyl)-3-trifluoromethylthio-4-cyano-5-chloropyrrole prepared above was dissolved in 125 mL of toluene and treated with 1.65 mL (1.68 g, 11.1 mmoles) of 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU) at room temperature for 1 hour. The reaction mixture was then diluted with ether, washed with water, dried over anhydrous MgSO4 and concentrated to give 4.84 g (98%) of 1-(2,6-dichloro-4-trifluoromethylphenyl)-2-(2-cyanoethenyl)-3-trifluoromethylthio-4-cyano-5-chloropyrrole as a yellow solid.

reactant | 1-(2,6-dichloro-4-trifluoromethylphenyl)-2-(2-chloro-2-cyanoethyl)-3-trifluoromethylthio-4-cyano-5-chloropyrrole | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1C(=C(C(=C1Cl)C#N)SC(F)(F)F)CC(C#N)Cl | C16H5Cl4F6N3S
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 11.1 mmoles, 1.65 mL, 1.68 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | toluene | 125 mL | C1(=CC=CC=C1)C | C7H8
solvent | ether | CCOCC | C4H10O
product | 1-(2,6-dichloro-4-trifluoromethylphenyl)-2-(2-cyanoethenyl)-3-trifluoromethylthio-4-cyano-5-chloropyrrole | 4.84 g, 98% | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1C(=C(C(=C1Cl)C#N)SC(F)(F)F)C=CC#N | C16H4Cl3F6N3S
